US04017512
9.25 g (40 mmoles) of N-mesyl-O-(p-methoxybenzyl)hydroxylamine prepared as described in Reference Example 5 was added to sodium methoxide (prepared from 150 ml of absolute methanol and 1.2 g of sodium metal), and 6 g of benzyl chloride was then added to the mixture. The resulting mixture was heated under refluxing for 3 hours. The solvent was distilled off, and 150 ml of ethyl acetate and 50 ml of water were added to the residue. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated to obtain 8.4 g (65.6% yield) of N-benzyl-N-mesyl-O-(p-methoxybenzyl)hydroxylamine having a melting point of 85°-87° C.

reactant | N-mesyl-O-(p-methoxybenzyl)hydroxylamine | 40 mmoles, 9.25 g | S(=O)(=O)(C)NOCC1=CC=C(C=C1)OC | C9H13NO4S
reactant | benzyl chloride | 6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | sodium methoxide | 150 ml, 1.2 g | C[O-].[Na+]
product | N-benzyl-N-mesyl-O-(p-methoxybenzyl)hydroxylamine | 8.4 g, 65.6% yield | C(C1=CC=CC=C1)N(OCC1=CC=C(C=C1)OC)S(=O)(=O)C | C16H19NO4S
